** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasMasternCoarse.sch
.subckt BiasMasterCoarse VddA18 GndA BiasCB0 BiasCB1 BiasCB3 BiasCB4 BiasCB5 BiasCB6 BiasCB7 BiasCB2 PowerDown VMasterBiasN
+ VMasterBiasP IR
*.PININFO PowerDown:I VMasterBiasN:O VddA18:B GndA:B IR:B VMasterBiasP:O BiasCB0:B BiasCB1:B BiasCB2:B BiasCB3:B BiasCB4:B
*+ BiasCB5:B BiasCB6:B BiasCB7:B
xBiasMasterBias VMasterBiasP Coarse2 Coarse1 VMasterBiasN PowerDown VddA18 GndA IR BiasMasterBias
xMBDiv VddA18 GndA Coarse2 Coarse1 BiasCB0 BiasCB1 BiasCB3 BiasCB4 BiasCB5 BiasCB6 BiasCB7 BiasCB2 BiasCoarseMBDivider
xC1 VMasterBiasN GndA sky130_fd_pr__cap_mim_m3_1 W=133.7 L=145
.ends

* expanding   symbol:  BiasMasterBias.sym # of pins=8
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasMasterBias.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasMasterBias.sch
.subckt BiasMasterBias VMasterBiasP ICoarse2 ICoarse1 VMasterBiasN BiasPowerDown VddA18 GndA IR
*.PININFO VMasterBiasP:O IR:B VddA18:B GndA:B VMasterBiasN:O ICoarse1:B ICoarse2:B BiasPowerDown:I
XMNBiasDio VMasterBiasN VMasterBiasN GndA GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=20 nf=1 m=12
XMPBias VCasc VMasterBiasP VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=20 W=2 nf=1 m=8
XMNBias net1 VMasterBiasN IR GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=20 nf=1 m=16
XMnBiasCascDio VCasc VCasc VMasterBiasN GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=1 nf=1 m=12
XMnBiasCasc VMasterBiasP VCasc net1 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=1 nf=1 m=16
XMPBiasDio VMasterBiasP VMasterBiasP VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=20 W=2 nf=1 m=8
XMNMirr1 net2 VMasterBiasN GndA GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=20 nf=1
XMNMirrCasc1 ICoarse1 VCasc net2 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=1 nf=1
XMNMirr2 net3 VMasterBiasN GndA GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=20 nf=1
XMNMirrCasc2 ICoarse2 VCasc net3 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=1 nf=1
XMNBSPD VCasc BiasPowerDown GndA GndA sky130_fd_pr__nfet_01v8_lvt L=0.2 W=2 nf=1
XMNBSCapBias VddA18 VMasterBiasP VddA18 GndA sky130_fd_pr__nfet_01v8 L=16 W=16 nf=1
XMPBS bootstrap VMasterBiasP VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=0.2 W=2 nf=1
XMNBSCapBS BiasPowerDown bootstrap BiasPowerDown GndA sky130_fd_pr__nfet_01v8 L=16 W=16 nf=1
XMPBSPU VCasc bootstrap VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=0.2 W=2 nf=1
.ends


* expanding   symbol:  BiasCoarseMBDivider.sym # of pins=12
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasCoarseMBDivider.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasCoarseMBDivider.sch
.subckt BiasCoarseMBDivider VddA18 GndA ICoarse2 ICoarse1 BiasCB0 BiasCB1 BiasCB3 BiasCB4 BiasCB5 BiasCB6 BiasCB7 BiasCB2
*.PININFO VddA18:B GndA:B ICoarse1:B BiasCB0:B BiasCB1:B BiasCB2:B BiasCB3:B BiasCB4:B BiasCB5:B BiasCB6:B BiasCB7:B ICoarse2:B
x1 GndA VddA18 ICoarse2 BiasCB2 BiasCB3 BiasCB4 BiasCB5 BiasCB6 BiasCB7 BiasDivider
xMult GndA VddA18 ICoarse1 BiasCB0 BiasCB1 BiasMultiplier
XMNDioCB0 BiasCB0 BiasCB0 GndA GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=1.98 nf=1 m=8
XMNDioCB1 BiasCB1 BiasCB1 GndA GndA sky130_fd_pr__nfet_01v8_lvt L=10 W=1 nf=1 m=8
XMNDioCB2 BiasCB2 BiasCB2 s17 GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=1.98 nf=1
XMNDioCB3 BiasCB3 BiasCB3 s27 GndA sky130_fd_pr__nfet_01v8_lvt L=10 W=1 nf=1
XMNDioCB4 BiasCB4 BiasCB4 s37 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM10 s17 BiasCB2 s16 GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=1.98 nf=1
XM11 s16 BiasCB2 s15 GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=1.98 nf=1
XM12 s15 BiasCB2 s14 GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=1.98 nf=1
XM13 s14 BiasCB2 s13 GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=1.98 nf=1
XM14 s13 BiasCB2 s12 GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=1.98 nf=1
XM15 s12 BiasCB2 s11 GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=1.98 nf=1
XM16 s11 BiasCB2 GndA GndA sky130_fd_pr__nfet_01v8_lvt L=5 W=1.98 nf=1
XM17 s27 BiasCB3 s26 GndA sky130_fd_pr__nfet_01v8_lvt L=10 W=1 nf=1
XM18 s26 BiasCB3 s25 GndA sky130_fd_pr__nfet_01v8_lvt L=10 W=1 nf=1
XM19 s25 BiasCB3 s24 GndA sky130_fd_pr__nfet_01v8_lvt L=10 W=1 nf=1
XM20 s24 BiasCB3 s23 GndA sky130_fd_pr__nfet_01v8_lvt L=10 W=1 nf=1
XM21 s23 BiasCB3 s22 GndA sky130_fd_pr__nfet_01v8_lvt L=10 W=1 nf=1
XM22 s22 BiasCB3 s21 GndA sky130_fd_pr__nfet_01v8_lvt L=10 W=1 nf=1
XM23 s21 BiasCB3 GndA GndA sky130_fd_pr__nfet_01v8_lvt L=10 W=1 nf=1
XM24 s37 BiasCB4 s36 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM25 s36 BiasCB4 s35 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM26 s35 BiasCB4 s34 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM27 s34 BiasCB4 s33 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM28 s33 BiasCB4 s32 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM29 s32 BiasCB4 s31 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM30 s31 BiasCB4 GndA GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XMNDioCB5 BiasCB5 BiasCB5 s47 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM7 s47 BiasCB5 s46 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM8 s46 BiasCB5 s45 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM9 s45 BiasCB5 s44 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM31 s44 BiasCB5 s43 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM32 s43 BiasCB5 s42 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM33 s42 BiasCB5 s41 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM34 s41 BiasCB5 GndA GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XMNDioCB6 BiasCB6 BiasCB6 s57 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM36 s57 BiasCB6 s56 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM37 s56 BiasCB6 s55 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM38 s55 BiasCB6 s54 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM39 s54 BiasCB6 s53 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM40 s53 BiasCB6 s52 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM41 s52 BiasCB6 s51 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM42 s51 BiasCB6 GndA GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XMNDioCB7 BiasCB7 BiasCB7 s67 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM44 s67 BiasCB7 s66 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM45 s66 BiasCB7 s65 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM46 s65 BiasCB7 s64 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM47 s64 BiasCB7 s63 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM48 s63 BiasCB7 s62 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM49 s62 BiasCB7 s61 GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
XM50 s61 BiasCB7 GndA GndA sky130_fd_pr__nfet_01v8_lvt L=20 W=0.5 nf=1
.ends


* expanding   symbol:  BiasDivider.sym # of pins=9
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasDivider.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasDivider.sch
.subckt BiasDivider GndA VddA18 IIn IOut0 IOut1 IOut2 IOut3 IOut4 IOut5
*.PININFO GndA:B VddA18:B IIn:B IOut0:B IOut1:B IOut2:B IOut3:B IOut4:B IOut5:B
xDivCell0 VddA18 VOut0 IIn IOut0 BiasDividerCell
XM1 VddA18 IIn VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=8 W=4 nf=1 m=2
XM2 IIn IIn VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=8 W=4 nf=1 m=13
xDivCell5 VOut4 GndA IIn IOut5 BiasDividerCell
xDivCell1 VOut0 VOut1 IIn IOut1 BiasDividerCell
xDivCell2 VOut1 VOut2 IIn IOut2 BiasDividerCell
xDivCell3 VOut2 VOut3 IIn IOut3 BiasDividerCell
xDivCell4 VOut3 VOut4 IIn IOut4 BiasDividerCell
.ends


* expanding   symbol:  BiasMultiplier.sym # of pins=5
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasMultiplier.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasMultiplier.sch
.subckt BiasMultiplier GndA VddA18 IIn IOut1 IOut0
*.PININFO GndA:B VddA18:B IIn:B IOut0:B IOut1:B
xMultCell0 VIn VOut0 IIn IOut0 BiasMultiplierCell
xMultCell1 VOut0 VddA18 IIn IOut1 BiasMultiplierCell
XM1 GndA IIn VIn VIn sky130_fd_pr__pfet_01v8 L=8 W=4 nf=1 m=2
XM2 IIn IIn VIn VIn sky130_fd_pr__pfet_01v8 L=8 W=4 nf=1 m=13
.ends


* expanding   symbol:  BiasDividerCell.sym # of pins=4
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasDividerCell.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasDividerCell.sch
.subckt BiasDividerCell IPrev INext VGate IOut
*.PININFO INext:B IOut:B IPrev:B VGate:I
XM1 INext VGate IPrev IPrev sky130_fd_pr__pfet_01v8 L=8 W=4 nf=1 m=2
XM2 IOut VGate IPrev IPrev sky130_fd_pr__pfet_01v8 L=8 W=4 nf=1 m=13
.ends


* expanding   symbol:  BiasMultiplierCell.sym # of pins=4
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasMultiplierCell.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/BiasMultiplierCell.sch
.subckt BiasMultiplierCell IPrev INext VGate IOut
*.PININFO IPrev:B IOut:B INext:B VGate:I
XM1 IPrev VGate INext INext sky130_fd_pr__pfet_01v8 L=8 W=4 nf=1 m=2
XM2 IOut VGate INext INext sky130_fd_pr__pfet_01v8 L=8 W=4 nf=1 m=13
.ends

